US09062056B2
(R)-3-[5-Carbamoyl-2-oxo-1-(1,4,6-trimethyl-1H-indol-3-ylmethyl)-1,2-dihydro-imidazo[4,5-b]pyridin-3-yl]-3-(4-fluoro-phenyl)-propionic acid
To a stirred solution of (R)-3-[5-cyano-2-oxo-1-(1,4,6-trimethyl-1H-indol-3-ylmethyl)-1,2-dihydro-imidazo[4,5-b]pyridin-3-yl]-3-(4-fluoro-phenyl)-propionic acid methyl ester (0.17 g, 0.33 mmol) in dioxane (10 ml) and water (3 ml) was added lithium hydroxide monohydrate (70 mg, 1.66 mmol). The reaction was stirred for 24 hours after which time it was diluted with water and acidified using acetic acid. The resulting precipitate was collected via filtration and washed with water. The remaining solid was purified via preparative TLC (2×1 mm silica gel plates, 5% MeOH/Dichloromethane) to afford 22 mg (13%) of the title compound. LCMS, M++1, m/z: 516.20.

reactant | (R)-3-[5-cyano-2-oxo-1-(1,4,6-trimethyl-1H-indol-3-ylmethyl)-1,2-dihydro-imidazo[4,5-b]pyridin-3-yl]-3-(4-fluoro-phenyl)-propionic acid methyl ester | 0.33 mmol, 0.17 g | COC(C[C@H](C1=CC=C(C=C1)F)N1C(N(C=2C1=NC(=CC2)C#N)CC2=CN(C1=CC(=CC(=C21)C)C)C)=O)=O | C29H26FN5O3
reactant | lithium hydroxide monohydrate | 1.66 mmol, 70 mg | O.[OH-].[Li+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | water | 3 ml | O | H2O
product | (R)-3-[5-Carbamoyl-2-oxo-1-(1,4,6-trimethyl-1H-indol-3-ylmethyl)-1,2-dihydro-imidazo[4,5-b]pyridin-3-yl]-3-(4-fluoro-phenyl)-propionic acid | 22 mg, 13% | C(N)(=O)C1=CC=C2C(=N1)N(C(N2CC2=CN(C1=CC(=CC(=C21)C)C)C)=O)[C@H](CC(=O)O)C2=CC=C(C=C2)F | C28H26FN5O4
